US07087601B2
[2-methoxy-4-(4,5,6,7-tetrahydro-1,3-benzoxazol-2-yl)phenyl]acetonitrile
4-(cyanomethyl)-3-methoxy-N-(2-oxocyclohexyl)benzamide (0.8 g, 2.8 mmol) was treated with POCl3 (5 mL) at reflux for 1 h. The resulting mixture was concentrated and dissolved in dichloromethane (50 mL), washed with sat. NaHCO3 (3×15 mL) and sat. brine (3×15 mL), dried (MgSO4), and concentrated in vacuo. The crude residue was chromatographed on silica gel, eluting with 2:1 hexanes:EtOAc to afford the desired compound, [2-methoxy-4-(4,5,6,7-tetrahydro-1,3-benzoxazol-2-yl)phenyl]acetonitrile, the desired compound, as white solid. 1H NMR (CDCl3, 300 MHz) δ 7.58 (dd, 1H), 7.53 (m, 1H), 7.42 (d, 1H), 3.95 (s, 3H), 3.72 (s, 2H), 2.71 (m, 2H), 2.62 (m, 2H), 1.87 (m, 4H). MS (ESI) 269 (M+H)+.

reactant | 4-(cyanomethyl)-3-methoxy-N-(2-oxocyclohexyl)benzamide | 2.8 mmol, 0.8 g | C(#N)CC1=C(C=C(C(=O)NC2C(CCCC2)=O)C=C1)OC | C16H18N2O3
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | [2-methoxy-4-(4,5,6,7-tetrahydro-1,3-benzoxazol-2-yl)phenyl]acetonitrile | COC1=C(C=CC(=C1)C=1OC2=C(N1)CCCC2)CC#N | C16H16N2O2
